US07700786B2
3-(4-Amino-3-trifluoromethylphenyloxy)-5-methylpyrazole (2.00 g, 7.8 mmol) was added to a mixed solution of concentrated hydrochloric acid (2.1 ml) and acetone (20 ml) at room temperature, and the mixture was stirred at room temperature for 20 minutes. After the mixture was cooled below 0° C., a solution of sodium nitrite (0.54 g, 7.8 mmol) in water (3 ml) was dropwise added, and the mixture was stirred at an ambient temperature for 30 minutes. Then, cuprous chloride (0.85 g, 8.6 mmol) was little by little added at 0° C., and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (50 ml) and extracted with ethyl acetate (50 ml×2). An organic layer was washed with water (50 ml×3), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/3), to give a yellowish viscous substance of 3-(4-chloro-3-trifluoromethylphenyloxy)-5-methylpyrazole (2.12 g, yield: 98.7%). 1H-NMR (CDCl3, TMS, ppm): δ 2.25 (s, 3H), 5.64 (s, 1H), 7.23 (dd, J=3.0 and 8.8 Hz, 1H), 7.31-7.46 (m, 2H), 10.56 (br s, 1H).

reactant | 3-(4-Amino-3-trifluoromethylphenyloxy)-5-methylpyrazole | 7.8 mmol, 2.00 g | NC1=C(C=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C11H10F3N3O
reactant | hydrochloric acid | 2.1 ml | Cl | ClH
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | sodium nitrite | 7.8 mmol, 0.54 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
product | 3-(4-chloro-3-trifluoromethylphenyloxy)-5-methylpyrazole | 2.12 g, yield: 98.7% | ClC1=C(C=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C11H8ClF3N2O
